US07304182B2
Three hundred grams of parahydroxybenzoic acid and one thousand and five hundred grams of 10% aqueous methanol solution were put into a 2 L flask, and heated to 80° C. to give a 10% aqueous methanol solution containing parahydroxybenzoic acid. The solution was cooled to 60° C. at a rate of 0.5° C./min, and filtered by using a centrifuge at 60° C. As a result, 184.0 g of crystalline parahydroxybenzoic acid anhydride was obtained. The water content measured by Karl Fischer's method was 4.5%. The resulting crystalline product was dried with airflow at 70° C., and 174.9 g of crystalline parahydroxybenzoic acid anhydride was obtained.

reactant | parahydroxybenzoic acid | Three hundred grams | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
solvent | methanol | CO | CH4O
solvent | methanol | five hundred grams | CO | CH4O
product | parahydroxybenzoic acid anhydride | 184.0 g | OC1=CC=C(C(=O)OC(C2=CC=C(C=C2)O)=O)C=C1 | C14H10O5
